US09126935B2
A mixture of 2-(4-fluorophenylamino)-N-(4-hydroxyphenyl)benzamide (157 mg, 486 μmol), 2-amino-4-chloropyrimidine (60 mg, 463 μmol), and cesium carbonate (302 mg, 926 μmol) in DMSO (2316 μl, 463 μmol) was placed in a microwave pressure vial, the vial was sealed, and the vial (reaction mixture) was heated in a Biotage Microwave to 150° C. for 12 minutes. LCMS analysis indicated that the reaction was complete. Reaction was diluted with EtOAc and washed with sat NaHCO3 (aq). The organic layer was dried over sodium sulfate and concentrated in vacuo to give a brown color oil. The oil was taken up in minimal amount of DMSO and purified by Gilson HPLC {10-80% (0.1% TFA in CH3CN) in H2O over 20 min} to afford pure N-(4-(2-aminopyrimidin-4-yloxy)phenyl)-2-(4-fluorophenylamino)benzamide. MS Calcd for C23H18FN5O2=415. Found: [M+H]+=416.

reactant | 2-(4-fluorophenylamino)-N-(4-hydroxyphenyl)benzamide | 486 μmol, 157 mg | FC1=CC=C(C=C1)NC1=C(C(=O)NC2=CC=C(C=C2)O)C=CC=C1 | C19H15FN2O2
reactant | 2-amino-4-chloropyrimidine | 463 μmol, 60 mg | NC1=NC=CC(=N1)Cl | C4H4ClN3
reactant | cesium carbonate | 926 μmol, 302 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | DMSO | 463 μmol, 2316 μl | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(4-(2-aminopyrimidin-4-yloxy)phenyl)-2-(4-fluorophenylamino)benzamide | NC1=NC=CC(=N1)OC1=CC=C(C=C1)NC(C1=C(C=CC=C1)NC1=CC=C(C=C1)F)=O | C23H18FN5O2
